US05854245
To a 100 mL round bottomed flask with a stirring bar and an argon inlet was added 4-(4-(1,1-dimethylethoxycarbonyl) piperazinyl)benzoic acid (0.75 g, 2.45 mmol), ethyl 4-amino-3-methylphenoxyacetate hydrochloride (0.60 g, 2.45 mmol), chloro-N,N,N',N',-bis(pentamethylene)formamidinium hexafluorophosphate (0.97 g, 2.69 mmol), and CH2Cl2 (30 mL). This mixture was cooled in an ice bath and diisopropylethylamine (1.74 mL, 10.0 mmol) was added. The ice bath was allowed to expire and the solution was stirred at ambient temperature for 48 h. The solution was diluted with CHCl3 and washed with 10% aqueous citric acid, saturated aqueous NaHCO3, and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave an oil. This material was chromatographed on 75 g of silica gel using 50% EtOAc-hexane as eluant. There was obtained 1.22 g (100%) of ethyl 2-(4-(4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)phenylcarbonylamino)-3-methylphenoxy)acetate as a crystalline solid.

reactant | 4-(4-(1,1-dimethylethoxycarbonyl) piperazinyl)benzoic acid | 2.45 mmol, 0.75 g | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1)C | C16H22N2O4
reactant | ethyl 4-amino-3-methylphenoxyacetate hydrochloride | 2.45 mmol, 0.60 g | Cl.NC1=C(C=C(OCC(=O)OCC)C=C1)C
reactant | chloro-N,N,N',N',-bis(pentamethylene)formamidinium hexafluorophosphate | 2.69 mmol, 0.97 g | C1CCN(CC1)C(=[N+]2CCCCC2)Cl.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 10.0 mmol, 1.74 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(4-(4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)phenylcarbonylamino)-3-methylphenoxy)acetate | 1.22 g, 100% | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(=O)NC1=C(C=C(OCC(=O)OCC)C=C1)C)C | C27H35N3O6
